US05489593
2-(N-Methyl-N-(3-nitro-2-pyridinyl)amino)ethanol
2-(Methylamino)ethanol (3.04 ml) is added to a mixture of 2-chloro-3-nitropyridine (3.00 g) and of potassium carbonate (5.22 g) in acetonitrile (90 ml) at 0°. The mixture is stirred for 2.5 hr at 20°-25° and additional 2-(methylamino)ethanol (1.5 ml) is added. The mixture is stirred for 1.5 hr, concentrated to a gum and diluted with methylene chloride (85 ml) and water (20 ml). The layers are separated and the organic phase is washed in water and dried over magnesium sulfate. Removal of solvent under reduced pressure gives the title compound, NMR (CDCl3) 8.27, 8.14, 6.76, 4.38, 3.88 and 2.87 δ.

reactant | 2-(Methylamino)ethanol | 3.04 ml | CNCCO | C3H9NO
reactant | 2-chloro-3-nitropyridine | 3.00 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | potassium carbonate | 5.22 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(methylamino)ethanol | 1.5 ml | CNCCO | C3H9NO
solvent | acetonitrile | 90 ml | C(C)#N | C2H3N
product | 2-(N-Methyl-N-(3-nitro-2-pyridinyl)amino)ethanol | CN(C1=NC=CC=C1[N+](=O)[O-])CCO | C8H11N3O3
